US08034812B2
Production of methyl 3-(1-cyano-2-cyclopropyl-1-methylethyl)benzoate
To a solution of methyl 3-(1-cyanoethyl)benzoate (1.5 g, 7.9=mol) in acetonitrile (20 mL) were added sodium methoxide (0.95 g, 17 mmol) and (bromomethyl)cyclopropane (1.3 g, 9.5 mmol), and the reaction mixture was stirred at room temperature for 30 min. To the reaction mixture was added sodium hydride (60% in oil, 0.7 g, 17 mmol) under ice-cooling, and the mixture was stirred at room temperature for 16 hr. The mixture was diluted with diethyl ether, and washed with 5% aqueous sodium hydrogencarbonate solution and saturated brine. The organic layer was dried over anhydrous sodium sulfate, and filtrated. The solvent was evaporated under reduced pressure, and the residue was purified by silica gel column chromatography (ethyl acetate/hexane=5/95→40/60) to give the title compound (129 mg, 6.7%) as a colorless oil.

reactant | methyl 3-(1-cyanoethyl)benzoate | 1.5 g | C(#N)C(C)C=1C=C(C(=O)OC)C=CC1 | C11H11NO2
reactant | sodium methoxide | 17 mmol, 0.95 g | C[O-].[Na+]
reactant | (bromomethyl)cyclopropane | 9.5 mmol, 1.3 g | BrCC1CC1 | C4H7Br
reactant | sodium hydride | 17 mmol, 0.7 g | [H-].[Na+]
solvent | acetonitrile | 20 mL | C(C)#N | C2H3N
solvent | diethyl ether | C(C)OCC | C4H10O
product | methyl 3-(1-cyano-2-cyclopropyl-1-methylethyl)benzoate | 129 mg, 6.7% | C(#N)C(CC1CC1)(C)C=1C=C(C(=O)OC)C=CC1 | C15H17NO2
